US08222416B2
To a solution of 6-amino-5-trimethylsilanylethynyl-nicotinic acid methyl ester (6.05 g, 24.4 mmol) and pyridine (4 mL, 49.4 mmol) in dichloromethane (80 mL) was added acetyl chloride (2.6 mL, 35.6 mmol) at 0° C. The mixture was allowed to warm up to 25° C. and stirred for 12 h. The reaction mixture was extracted with ethyl acetate, washed with brine and dried over sodium sulfate. The solvent was evaporated in vacuo to afford 6-acetylamino-5-trimethylsilanylethynyl nicotinic acid methyl ester which was used without further purification.

reactant | 6-amino-5-trimethylsilanylethynyl-nicotinic acid methyl ester | 24.4 mmol, 6.05 g | COC(C1=CN=C(C(=C1)C#C[Si](C)(C)C)N)=O | C12H16N2O2Si
reactant | pyridine | 49.4 mmol, 4 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 35.6 mmol, 2.6 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 6-acetylamino-5-trimethylsilanylethynyl nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)C#C[Si](C)(C)C)NC(C)=O)=O | C14H18N2O3Si
